US05599587
To a solution of 2-chloro-2-oxo-1,3,2-dioxaphospholane (30 g,211 mmol) in dry acetonitrile (400 ml) containing anhydrous sodium carbonate (270 mg) was added N-(2-hydroxyethyl)phthalimide (40.3 g, 211 mmol). Anhydrous chloroform was added until all the organic material was solubilised, after which the mixture was stirred at room temperature for two hours. The solvents were removed under reduced pressure and the residue was dissolved in dry acetonitrile (100 ml) which was added to frozen trimethylamine (37.4 g, 633 mmol) in a pressure vessel at liquid nitrogen temperature. The vessel was sealed and the mixture heated at 60° C. for 40 hours. The mixture was cooled and filtered. The hydroscopic solid was washed with dry acetonitrile and dissolved in water (200 ml). Hydrazine (15 ml, 15.3 g, 478 mmol) was added and stirring maintained at ambient temperature for two hours when concentrated hydrochloric acid was added until the pH reached 1.5. The resulting white solid was removed by filtration and washed with water. The filtrate and washings were combined and the pH adjusted to 9.0 with ammonium hydroxide (40% solution). The water was evaporated under reduced pressure leaving a white solid which was heated to 150° C. for three hours in a sublimation apparatus. The residue was crystallised from water to give 2-[(2-aminoethoxyhydroxyphosphinyl)oxy]-N,N,N-trimethylethanaminium hydroxide, inner salt.

reactant | 2-chloro-2-oxo-1,3,2-dioxaphospholane | 211 mmol, 30 g | ClP1(OCCO1)=O | C2H4ClO3P
reactant | sodium carbonate | 270 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-(2-hydroxyethyl)phthalimide | 211 mmol, 40.3 g | OCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H9NO3
reactant | trimethylamine | 633 mmol, 37.4 g | CN(C)C | C3H9N
reactant | Hydrazine | 478 mmol, 15 ml, 15.3 g | NN | H4N2
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-[(2-aminoethoxyhydroxyphosphinyl)oxy]-N,N,N-trimethylethanaminium hydroxide | [OH-].NCCOP(=O)(OCC[N+](C)(C)C)O | InChI=1S/C7H19N2O4P.H2O/c1-9(2,3)5-7-13-14(10,11)12-6-4-8;/h4-8H2,1-3H3;1H2
